US06737417B2
Dichloromethane (92.25 ml) was added to oxalyl dichloride (3.54 ml, 40.59 mmol) under nitrogen atmosphere and the resulting mixture was cooled to −78° C. To this mixture, a solution of dimethyl sulfoxide (5.76 ml, 81.18 mmol) diluted in dichloromethane (18.45 ml) was added dropwise. After the mixture was stirred for 2 minutes at −78° C., a solution of 3,17β-bis(benzyloxy)estra-1,3,5(10)-trien-11α-ol (17.29 g, 36.90 mmol) in dichloromethane (36.90 ml) was added dropwise, followed by stirring for 15 minutes at −78° C. Triethylamine (25.7 ml, 184.5 mmol) was added dropwise to the reaction mixture, which was then stirred for 5 minutes at −78° C. and warmed to room temperature. The reaction mixture was cooled again on ice, quenched by addition of ice and water, and then extracted with dichloromethane. The organic layer was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and then filtered. The filtrate was concentrated under reduced pressure using an evaporator to give crude 3,17β-bis(benzyloxy)estra-1,3,5(10)-trien-11-one (crude 18.76 g, quant from crude 1H-NMR).

reactant | oxalyl dichloride | 40.59 mmol, 3.54 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 81.18 mmol, 5.76 ml | CS(=O)C | C2H6OS
reactant | 3,17β-bis(benzyloxy)estra-1,3,5(10)-trien-11α-ol | 36.90 mmol, 17.29 g | C(C1=CC=CC=C1)OC1=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3C2C=C1)O)OCC1=CC=CC=C1 | C32H36O3
reactant | Triethylamine | 184.5 mmol, 25.7 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 18.45 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 36.90 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 92.25 ml | ClCCl | CH2Cl2
product | 3,17β-bis(benzyloxy)estra-1,3,5(10)-trien-11-one | C(C1=CC=CC=C1)OC1=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC([C@@H]3C2C=C1)=O)OCC1=CC=CC=C1 | C32H34O3
